US04997950
5.8.3 Preparation of t-Butyloxycarbonyl-L-Tryptophyl-L-Leucyl-chloromethane (Boc-Trp-Leu-COCH2Cl)
Boc-L-tryptophan (2.22 g, 7.3 mmol) was dissolved in anhydrous tetrahydrofuran (30 ml). The solution was chilled to -15° C. and N-methylmorpholine (1.62 ml, 14.6 mmol) was added followed by isobutyl chloroformate (0.99 ml, 7.66 mmol). The solution was stirred for 15 minutes after which time L-leucyl-chloromethyl ketone hydrochloride (1.32 g, 6.63 mmol) in anhydrous dimethylformamide (20 ml) was added. The reaction mixture was allowed to warm to room temperature over a period of 4 hours and the solvent was removed in vacuo. The residue was dissolved in ethyl acetate (150 ml) and washed quickly with 5% NaHSO4, 5% NaHCO3 and brine. The organic layer was dried over magnesium sulphate and then reduced to dryness. Crystallisation was from diethyl ether/petrol ether (40°/60° C.). Yield 1.87 g (60%), m.p. 140°-141° C. The product was homogeneous as judged by tlc in chloroform/methanol (4:1) (Rf 0.736) or chloroform/methanol (95.5) (Rf 0.490). (Found: C, 61.43; H, 7.10; N, 9.37. C23H32O4N3Cl1 requires C, 61.47; H, 7.12; N, 9.35%).

reactant | Boc-L-tryptophan | 7.3 mmol, 2.22 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C16H20N2O4
reactant | N-methylmorpholine | 14.6 mmol, 1.62 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 7.66 mmol, 0.99 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | L-leucyl-chloromethyl ketone hydrochloride | 6.63 mmol, 1.32 g | Cl.N[C@@H](CC(C)C)C(=O)C(Cl)C(=O)C(C([C@@H](N)CC(C)C)=O)Cl
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | t-Butyloxycarbonyl-L-Tryptophyl-L-Leucyl-chloromethane | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)CCl | C23H32ClN3O4
